US07371743B2
(c) methyl N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetate
Prepared analogously to Example 1d from methyl 2-amino-2-(1-methyl-pyrazol-3-yl)-acetate and di-tert. butyl pyrocarbonate with TEA in dichloromethane.

reactant | methyl 2-amino-2-(1-methyl-pyrazol-3-yl)-acetate | NC(C(=O)OC)C1=NN(C=C1)C | C7H11N3O2
reactant | di-tert. butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl N-Boc-2-amino-2-(1-methyl-pyrazol-3-yl)-acetate | C(=O)(OC(C)(C)C)NC(C(=O)OC)C1=NN(C=C1)C | C12H19N3O4
